US07910774B2
Preparation of carbonic acid (2S,4S)-2-tert-butylcarbonylamino-4-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-5-methyl-hexylester tert-butyl ester
Carbonic acid (2S,4S)-2-tert-butylcarbonylamino-4-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-5-methyl-hexylester tert-butyl ester (2.67 g) is dissolved in 25 mL of a mixture of ethanol/acetic acid, 2/1 at room temperature. Palladium metal, 10% on charcoal (0.3 g) is added and the suspension placed under an atmosphere of hydrogen at a pressure of 5 bar. Hydrogenation is continued for 3 days at 50° C. with periodic addition of more catalyst. The reaction mixture is filtered and the solvent removed to give an oil. The oil is purified by chromatography on silica-gel eluting with hexane/ethyl acetate mixtures. The product fractions are combined and the solvent is removed to give the title compound as an oil.

reactant | Carbonic acid (2S,4S)-2-tert-butylcarbonylamino-4-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-5-methyl-hexylester tert-butyl ester | 2.67 g | C(C)(C)(C)OC(OC[C@H](C[C@@H](C(C)C)C(C1=CC(=C(C=C1)OC)OCCCOC)=O)NC(=O)C(C)(C)C)=O | C29H47NO8
solvent | ethanol acetic acid | C(C)O.C(C)(=O)O
catalyst | Palladium | [Pd] | Pd
product | carbonic acid (2S,4S)-2-tert-butylcarbonylamino-4-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-5-methyl-hexylester tert-butyl ester | C(C)(C)(C)OC(OC[C@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)NC(=O)C(C)(C)C)=O | C29H49NO7
